two_source_bridge - fault test
V1 p1 0 DC 15
V2 p2 0 DC 10
C1 p1 mid1 2.31e-06
R3 mid1 0 147.531176
R2 p2 mid2 202.565461
R4 mid2 0 245.676333
R5 mid1 mid2 75.453311
.op
.control
run
print v(mid1) v(mid2) v(p1) v(p2)
print @r3[i] @r2[i] @r4[i] @r5[i]
.endc
.end
